*Xyce Common Source Circuit
** library calling


*****************
** main netlist
*****************
Vn n 0 dc 1


dn1 n 0 sc_diode AREA={10u*10u}
* PJ=40u


*****************
** Analysis
*****************
.DC Vn -12.13 1.13 0.13
.STEP TEMP LIST -40 25 125 175
.print DC FORMAT=CSV file=result.csv {abs(I(dn1))}
* .print DC FORMAT=CSV file=result.csv {N(dn1:is)}



.include "../../../../design.spice"
.lib "../../../../sm141064.spice" diode_typical

.end
